*****************************************************************
* NXP PSMN3R2_25YLC
*
* Polarity N-Channel
* Ratings 25V/3.4E-03OHMS/25A
*
* Date Created Sun Apr  3 10:54:23 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R2_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0009

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00177399912191203 TC=0.00898100763720481,-1.19833812957205e-05
RBD 9 4 0.000802722912890721 TC=0.00898100763720481,-1.19833812957205e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.80045184844097e-09
RG 1 2 1.77663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	1783
+ -10	1689
+ -5	1627
+ -4	1622
+ -3	1587
+ -2	1501
+ -1	959
+ -0.5	792
+ -0.2	688
+ -0.1	646
+ 0	671.3
+ 0.1	675.8
+ 0.2	627.6
+ 0.5	504.7
+ 1	385.2
+ 2	284.3
+ 3	241.5
+ 4	218.3
+ 5	202.7
+ 6	190.7
+ 8	176
+ 10	165.98
+ 12	159.76
+ 15	152.02
+ 20	142.52

.MODEL MINT NMOS(Vto=1.96892735001571 Kp=2.8269e+02 Nfs=520000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1000)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=1.31030066236854e-12
+ N=1 M=0.61 VJ=0.64 Fc=0.5 Cjo=2.1789e-09 Tt=2.93e-08)

.ENDS
